US07153854B2
A mixture of ethyl 5-[7-ethyl-2-(hydroxymethyl)-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (100 mg), 1H-isoindole-1,3(2H)dione (44.6 mg) diisopropyl azodicarboxylate (76.7 mg) and triphenylphosphine (995 mg) in tetrahydrofuran (2 mL) was stirred at ambient temperature for 1 hour. After evaporation of solvent, the residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1–1:1) to give ethyl 5-[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate as yellow oil (107 mg).

reactant | ethyl 5-[7-ethyl-2-(hydroxymethyl)-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 100 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)CCCCC(=O)OCC)CO | C23H29N3O3
reactant | 1H-isoindole-1,3(2H)dione | 44.6 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 995 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | ethyl 5-[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 107 mg | O=C1N(C(C2=CC=CC=C12)=O)CC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)C)CCCCC(=O)OCC | C31H32N4O4
